US05708008
5-(5-bromo-2-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10.0 mg (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 25.0 mg (0.131 mMol) 5-bromo-2-furoic acid, 8.4 mg (48%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.044 mMol, 10.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 5-bromo-2-furoic acid | 0.131 mMol, 25.0 mg | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
product | 5-(5-bromo-2-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 8.4 mg, 48% | BrC1=CC=C(O1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H20BrN3O2
